US04234594
1-Acetyl-2(1,3,4-trimethyl-5-pyrazolyl) amino-2-imidazoline
5-Amino-1,3,4-trimethyl pyrazole hydrochloride (8.00 g.) and 1-acetyl-2-imidazolinone (7.05 g.) were reacted as described in Example I to give 7.90 g. mp 212°-215° (crystallized from CH3CN)

reactant | 5-Amino-1,3,4-trimethyl pyrazole hydrochloride | 8.00 g | Cl.NC1=C(C(=NN1C)C)C
reactant | 1-acetyl-2-imidazolinone | 7.05 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-Acetyl-2(1,3,4-trimethyl-5-pyrazolyl) amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=C(C(=NN1C)C)C | C11H17N5O
